US07179807B2
BBr3 is added to a solution of 3,6-diethyl-5-(2,4-dimethoxyphenyl)-[N-(1-ethylpropyl)]pyrazine-2-amine (910 mg, 2.54 mmol). (obtained in example 4) in dichloromethane (1N, 6 ml) at −78° C. The mixture is stirred for 10 minutes, then gradually warmed to room temperature and stirred for 3 hours before being poured into ice-water and extracted with dichloromethane. The aqueous layer is basified with saturated NaHCO3 and extracted with dichloromethane. The combined extracts are dried (sodium sulfate), filtered, concentrated and the residue is purified by column chromatography (20% EtOAc in hexane) to give 3,6-diethyl-5-(2,4-dihydroxyphenyl)-[N-(1-ethylpropyl)]pyrazine-2-amine as a yellow oil (590 mg, 71%): 1H NMR (CDCl3, 400 MHz) δ 0.94 (t,6H), 1.30(t,3H), 1.36(t,3H), 1.57(m,2H), 1.67(m,2H), 2.62(q,2H), 2.86(q,2H), 4.15(m, 2H), 6.41(d,1H) 6.51(d,1H), 7.27(d,1H). LC-MS: 330 (M+1).

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 3,6-diethyl-5-(2,4-dimethoxyphenyl)-[N-(1-ethylpropyl)]pyrazine-2-amine | 2.54 mmol, 910 mg | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)OC)CC)NC(CC)CC | C21H31N3O2
solvent | dichloromethane | 1N, 6 ml | ClCCl | CH2Cl2
product | 3,6-diethyl-5-(2,4-dihydroxyphenyl)-[N-(1-ethylpropyl)]pyrazine-2-amine | 590 mg, 71% | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)O)O)CC)NC(CC)CC | C19H27N3O2
